US04178382
In the manner described in Example 2, 3.0 g (0.012 mole) of 3-trimethylstannylpropionic acid hydrazide was reacted with 1.5 ml (0.015 mole) of benzaldehyde in 2.0 ml of ethanol. Recrystallization of the solid product from 95% ethanol gave 3.6 g of 3-trimethylstannylpropionic acid phenylmethylenehydrazide, Compound 3 of Table I. The infrared spectrum (KBr disc) showed N--H absorptions at 3100 cm-1 and a carbonyl band at 1670 cm-1. The carbon-tin bond gave characteristic absorptions at 770, 540, 520 and 505 cm-1. NMR spectroscopy (CDCl3) showed the following: the singlet at 10.43 delta (1H, N--H); a broadened singlet at 7.87 delta (1H, -N=CHPh); the aromatic protons formed two complex bands, 2H ortho centered at 7.64 delta and 3H meta and para centered at 7.38 delta; a triplet centered at 2.99 delta (2H, COCH2); a triplet centered at 1.11 delta (2H, SnCH2); and a singlet at the 0.14 delta (9H, Sn(CH3)3) flanked by the J(117/119Sn--CH3) doublets.

reactant | 3-trimethylstannylpropionic acid hydrazide | 0.012 mole, 3.0 g | C[Sn](CCC(=O)NN)(C)C
reactant | benzaldehyde | 0.015 mole, 1.5 ml | C(C1=CC=CC=C1)=O | C7H6O
solvent | ethanol | 2.0 ml | C(C)O | C2H6O
product | 3-trimethylstannylpropionic acid phenylmethylenehydrazide | 3.6 g | C1(=CC=CC=C1)C=NNC(CC[Sn](C)(C)C)=O | InChI=1S/C10H11N2O.3CH3.Sn/c1-2-10(13)12-11-8-9-6-4-3-5-7-9;;;;/h3-8H,1-2H2,(H,12,13);3*1H3;
